US09290440B2
4-(Phenylsulfanylmethyl)benzyl alcohol
Methyl 4-(phenylsulfanylmethyl)benzoate (1.07 g) was dissolved in THF (14 mL), added with lithium aluminum hydride (200 mg) in small portions under ice cooling, and stirred for 40 minutes at the same temperature. Under ice cooling, sodium sulfate decahydrate was added in small portions and filtered through Celite. The solvent was evaporated under reduced pressure. The residues were suspended in hexane and collected by filtration to obtain the title compound (910 mg) as a white powder.

reactant | Methyl 4-(phenylsulfanylmethyl)benzoate | 1.07 g | C1(=CC=CC=C1)SCC1=CC=C(C(=O)OC)C=C1 | C15H14O2S
reactant | lithium aluminum hydride | 200 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 14 mL | C1CCOC1 | C4H8O
product | 4-(Phenylsulfanylmethyl)benzyl alcohol | 910 mg | C1(=CC=CC=C1)SCC1=CC=C(CO)C=C1 | C14H14OS
